US06426345B1
A mixture of 2-bromo-3′-nitroacetophenone (12.2 g) and thiourea (3.81 g) in ethanol (100 ml) was stirred at room temperature for 15 minutes. The reaction mixture was poured into a mixture of ethyl acetate and an aqueous sodium bicarbonate solution. The organic phase was washed with brine, dried over magnesium sulfate and concentrated. The resultant solid was collected and washed with isopropyl ether to give 2-amino-4-(3-nitrophenyl)thiazole (10.21 g).

reactant | 2-bromo-3′-nitroacetophenone | 12.2 g | BrCC(=O)C1=CC(=CC=C1)[N+](=O)[O-] | C8H6BrNO3
reactant | thiourea | 3.81 g | NC(=S)N | CH4N2S
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2-amino-4-(3-nitrophenyl)thiazole | 10.21 g | NC=1SC=C(N1)C1=CC(=CC=C1)[N+](=O)[O-] | C9H7N3O2S
